### PR TITLE
[Merged by Bors] - chore: rename SemilinearMapClass.semilinearMap to LinearMap.ofClass

### PR DESCRIPTION
**Pull request by grunweg**
This rename is a small part of #31365, step (2) and the analogue of #43368 for semi-linear maps.

In addition, this PR goes one step further by removing the existing `LinearMap.ofClass`: both definitions mean the same, so we only need one. Note that neither `LinearMap` nor `SemilinearMap` is a definition, and `LinearMapClass` is defined in terms of `SemilinearMapClass`.

Rename a few lemmas using `ofClass`, so their names match the naming convention.
And delete `LinearMap.coe_semilinearMap`, which would have been misnamed now, as an exact duplicate of the now-called `LinearMap.coe_ofClass`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mcdoll** [comment]
I think your deprecation is not correct, see the bot above

File: Mathlib/Algebra/Module/LinearMap/Defs.lean [hunk 1]
```diff
@@ -158,27 +158,29 @@ theorem map_smul_inv {σ' : S →+* R} [RingHomInvPair σ σ'] (c : S) (x : M) :
...
   map_smul' := map_smulₛₗ f
 
 /-- Reinterpret an element of a type of semilinear maps as a semilinear map. -/
 instance instCoeToSemilinearMap : CoeHead F (M →ₛₗ[σ] M₃) where
-  coe f := semilinearMap f
+  coe f := SemilinearMap.ofClass f
 
 end SemilinearMapClass
 
+@[deprecated (since := "2026-09-03")] alias semilinearMap := SemilinearMap.ofClass
```
Comment (grunweg) [inline Mathlib/Algebra/Module/LinearMap/Defs.lean]:
```suggestion
@[deprecated (since := "2026-09-03")] alias SemilinearMapClass.semilinearMap := SemilinearMap.ofClass
```

**Comment by grunweg** [comment]
Good catch! Should be fixed now.

File: Mathlib/RepresentationTheory/Intertwining.lean [hunk 2]
```diff
@@ -74,8 +74,9 @@ instance : LinearMapClass (IntertwiningMap ρ σ) A V W where
 -- we are actively moving away from these design decisions.
 -- See e.g. https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Concrete.20homomorphism.20type.20vs.20abstract.20class/with/492579416
 @[simp]
-lemma coe_eq_toLinearMap {f : IntertwiningMap ρ σ} :
-  SemilinearMapClass.semilinearMap f = f.toLinearMap := rfl
+lemma ofClass_eq_toLinearMap {f : IntertwiningMap ρ σ} :
+  SemilinearMap.ofClass f = f.toLinearMap := rfl
+@[deprecated (since := "2026-09-03")] alias coe_eq_toLinearMap := ofClass_eq_toLinearMap
```
Comment (themathqueen) [inline Mathlib/RepresentationTheory/Intertwining.lean:79]:
```suggestion

@[deprecated (since := "2026-09-03")] alias coe_eq_toLinearMap := ofClass_eq_toLinearMap
```

File: Mathlib/Algebra/Module/LinearMap/Defs.lean [hunk 3]
```diff
@@ -158,27 +158,29 @@ theorem map_smul_inv {σ' : S →+* R} [RingHomInvPair σ σ'] (c : S) (x : M) :
...
   map_smul' := map_smulₛₗ f
 
 /-- Reinterpret an element of a type of semilinear maps as a semilinear map. -/
 instance instCoeToSemilinearMap : CoeHead F (M →ₛₗ[σ] M₃) where
-  coe f := semilinearMap f
+  coe f := SemilinearMap.ofClass f
 
 end SemilinearMapClass
 
+@[deprecated (since := "2026-09-03")] alias SemilinearMapClass.semilinearMap := SemilinearMap.ofClass
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/LinearMap/Defs.lean]: I think this is too long?
```suggestion
@[deprecated (since := "2026-09-03")] alias SemilinearMapClass.semilinearMap :=
  SemilinearMap.ofClass
```

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 4]
```diff
@@ -265,7 +265,7 @@ instance quotient (R) {A M} [Semiring R] [AddCommGroup M] [Ring A] [Module A M]
 
 /-- The range of a linear map from a finite module is finite. -/
 instance range [Module.Finite R M] (f : M →ₗ[R] N) : Module.Finite R f.range :=
-  of_surjective (SemilinearMapClass.semilinearMap f).rangeRestrict
```
Comment (grunweg) [inline Mathlib/RingTheory/Finiteness/Basic.lean:268]: This proof was just unnecessarily convoluted: the `SemilinearMapClass.semilinearMap` was already doing nothing.

File: Mathlib/Algebra/Module/LinearMap/Defs.lean [hunk 5]
```diff
@@ -158,27 +158,30 @@ theorem map_smul_inv {σ' : S →+* R} [RingHomInvPair σ σ'] (c : S) (x : M) :
 
 /-- Reinterpret an element of a type of semilinear maps as a semilinear map. -/
 @[coe]
-def semilinearMap : M →ₛₗ[σ] M₃ where
+def _root_.SemilinearMap.ofClass : M →ₛₗ[σ] M₃ where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/LinearMap/Defs.lean]: This doesn't actually work with `foo (.ofClass X)`, right? Should this be `LinearMap.ofClassₛₗ` instead?

Comment (eric-wieser) [reply Mathlib/Algebra/Module/LinearMap/Defs.lean]: (I think it would be worth adding a cross-reference in the `LinearMap.ofClass` docstring either way)

Comment (grunweg) [reply Mathlib/Algebra/Module/LinearMap/Defs.lean]: > This doesn't actually work with foo (.ofClass X), right?

Good question! The limited testing I have done indicates that this indeed doesn't work well.

> Should this be LinearMap.ofClassₛₗ instead?

Interesting idea! This makes dot notation work better, and is visually clear as to what's happening.
At the same time, the current rule "always use .ofClass" is very easy to remember. This would be an exception; would we be adding more exceptions?

I'll augment the doc-string anyway.

Comment (eric-wieser) [reply Mathlib/Algebra/Module/LinearMap/Defs.lean]: Why do we need both `LinearMap.ofClass` and `SemilinearMap.ofClass` at all? Why not only have the semilinear one, called `LinearMap.ofClass`?

Comment (grunweg) [reply Mathlib/Algebra/Module/LinearMap/Defs.lean]: Fair. I don't know the genesis of these class very well, so this is much appreciated. Let me rework this PR accordingly.

File: Mathlib/Algebra/Module/LinearMap/Defs.lean [hunk 6]
```diff
@@ -254,17 +245,16 @@ theorem coe_addHom_mk {σ : R →+* S} (f : AddHom M M₃) (h) :
     ((LinearMap.mk f h : M →ₛₗ[σ] M₃) : AddHom M M₃) = f :=
   rfl
 
-theorem coe_semilinearMap {F : Type*} [FunLike F M M₃] [SemilinearMapClass F σ M M₃] (f : F) :
-    ((f : M →ₛₗ[σ] M₃) : M → M₃) = f :=
-  rfl
+@[deprecated (since := "2026-09-07")] alias coe_semilinearMap := coe_ofClass
```
Comment (grunweg) [inline Mathlib/Algebra/Module/LinearMap/Defs.lean:248]: These statements were exact duplicates even before this PR.

**Comment by grunweg** [comment]
I have reworked the PR.
-awaiting-author

File: Mathlib/Algebra/Module/LinearMap/Defs.lean [hunk 7]
```diff
@@ -158,32 +158,22 @@ theorem map_smul_inv {σ' : S →+* R} [RingHomInvPair σ σ'] (c : S) (x : M) :
...
-variable {F : Type*} [Semiring R] [AddCommMonoid M₁] [AddCommMonoid M₂] [Module R M₁] [Module R M₂]
-  (f : F) [FunLike F M₁ M₂] [LinearMapClass F R M₁ M₂]
-
-/-- Reinterpret an element of a type of linear maps as a linear map. -/
-abbrev _root_.LinearMap.ofClass : M₁ →ₗ[R] M₂ := SemilinearMapClass.semilinearMap f
-
+@[deprecated (since := "2026-09-03")] alias SemilinearMapClass.semilinearMap :=
+  LinearMap.ofClass
+@[deprecated (since := "2026-09-07")] alias SemilinearMap.ofClass := LinearMap.ofClass
 @[deprecated (since := "2026-09-03")] alias linearMap := LinearMap.ofClass
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/LinearMap/Defs.lean]: What namespace is this in?

File: Mathlib/RingTheory/Bialgebra/Convolution.lean [hunk 8]
```diff
@@ -131,7 +131,7 @@ lemma convMul_def (f g : WithConv <| C →ₐc[R] A) :
 
 private lemma convPow_succ (f : WithConv <| C →ₐc[R] A) (n : ℕ) : f ^ (n + 1) = (f ^ n) * f := rfl
 
--- TODO: Make simp once `SemilinearMapClass.semilinearMap` is not simp nf anymore.
+-- TODO: Make simp once `SemilinearMap.ofClass` is not simp nf anymore.
```
Comment (themathqueen) [inline Mathlib/RingTheory/Bialgebra/Convolution.lean]:
```suggestion
-- TODO: Make simp once `LinearMap.ofClass` is not simp nf anymore.
```

File: Mathlib/RingTheory/Bialgebra/Convolution.lean [hunk 9]
```diff
@@ -142,7 +142,7 @@ lemma toAlgHom_convMul (f g : WithConv <| C →ₐc[R] A) :
     toConv (f * g).ofConv.toAlgHom = toConv f.ofConv.toAlgHom * toConv g.ofConv.toAlgHom :=
   rfl
 
--- TODO: Make simp once `SemilinearMapClass.semilinearMap` is not simp nf anymore.
+-- TODO: Make simp once `SemilinearMap.ofClass` is not simp nf anymore.
```
Comment (themathqueen) [inline Mathlib/RingTheory/Bialgebra/Convolution.lean]:
```suggestion
-- TODO: Make simp once `LinearMap.ofClass` is not simp nf anymore.
```

File: Mathlib/Algebra/Module/LinearMap/Defs.lean [hunk 10]
```diff
@@ -158,32 +158,22 @@ theorem map_smul_inv {σ' : S →+* R} [RingHomInvPair σ σ'] (c : S) (x : M) :
...
-namespace LinearMapClass
-variable {F : Type*} [Semiring R] [AddCommMonoid M₁] [AddCommMonoid M₂] [Module R M₁] [Module R M₂]
-  (f : F) [FunLike F M₁ M₂] [LinearMapClass F R M₁ M₂]
-
-/-- Reinterpret an element of a type of linear maps as a linear map. -/
-abbrev _root_.LinearMap.ofClass : M₁ →ₗ[R] M₂ := SemilinearMapClass.semilinearMap f
-
+@[deprecated (since := "2026-09-03")] alias SemilinearMapClass.semilinearMap :=
+  LinearMap.ofClass
+@[deprecated (since := "2026-09-07")] alias SemilinearMap.ofClass := LinearMap.ofClass
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/LinearMap/Defs.lean]: ?
```suggestion
```

File: Mathlib/RingTheory/Bialgebra/Convolution.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/RingTheory/Bialgebra/Convolution.lean]: Good catch; fixed!

File: Mathlib/Algebra/Module/LinearMap/Defs.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/Algebra/Module/LinearMap/Defs.lean]: Argh... the root namespace. It's great that we have tooling that would have told me! Fixed.

File: Mathlib/Algebra/Module/LinearMap/Defs.lean (hunk 10 above)
Comment (grunweg) [reply Mathlib/Algebra/Module/LinearMap/Defs.lean]: That's a question of policy: do we add a deprecation for name that's only four days old. I'm fine with adding it (it doesn't cost much, and might help downstream users). I don't really mind removing it either.

Comment (themathqueen) [reply Mathlib/Algebra/Module/LinearMap/Defs.lean]: But there is no `SemilinearMap.ofClass` as of now? You added it in one of your commits in this PR before?

Comment (grunweg) [reply Mathlib/Algebra/Module/LinearMap/Defs.lean]: Ah, that's a mix-up on my side. (Sorry, I'm somewhat tired today.)
The pre-existing definition was LinearMap.ofClass, which stays around.

File: Mathlib/Algebra/Module/LinearMap/Defs.lean [hunk 11]
```diff
@@ -210,9 +199,10 @@ instance semilinearMapClass : SemilinearMapClass (M →ₛₗ[σ] M₃) σ M M
   map_smulₛₗ := LinearMap.map_smul'
 
 @[simp, norm_cast]
-lemma coe_coe {F : Type*} [FunLike F M M₃] [SemilinearMapClass F σ M M₃] {f : F} :
-    ⇑(f : M →ₛₗ[σ] M₃) = f :=
+lemma coe_ofClass {F : Type*} [FunLike F M M₃] [SemilinearMapClass F σ M M₃] {f : F} :
+    ⇑(ofClass f) = f :=
   rfl
+@[deprecated (since := "2026-09-07")] alias coe_coe := coe_ofClass
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/LinearMap/Defs.lean:206]:
```suggestion

@[deprecated (since := "2026-09-07")] alias coe_coe := coe_ofClass
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer delegate

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge

**Comment by grunweg** [comment]
Not sure what happened here: let's try borsing again.
bors merge
